### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace): iff lemma about the inverse of a homothety

### PR DESCRIPTION
**Pull request by wwylele**
Make it easier to rewrite

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 1]
```diff
@@ -865,6 +865,14 @@ theorem homothety_add (c : P1) (r₁ r₂ : k) :
     homothety c (r₁ + r₂) = r₁ • (id k P1 -ᵥ const k P1 c) +ᵥ homothety c r₂ := by
   simp only [homothety_def, add_smul, vadd_vadd]
 
+theorem homothety_eq_iff {c p q : P1} {r₁ r₂ : k} (h : r₁ * r₂ = 1) :
+    homothety c r₁ p = q ↔ homothety c r₂ q = p := by
+  obtain h' := mul_eq_one_comm.mp h
+  refine ⟨fun h1 ↦ ?_, fun h1 ↦ ?_⟩
+  all_goals
+  rw [← h1, ← homothety_mul_apply]
+  simp [*]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean]: Optional style nit:
```suggestion
  obtain h' : r₂ * r₁ = 1 := mul_eq_one_comm.mp h
  refine ⟨fun h1 ↦ ?_, fun h1 ↦ ?_⟩
  all_goals
    rw [← h1, ← homothety_mul_apply]
    simp [h, h']
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 2]
```diff
@@ -865,6 +865,14 @@ theorem homothety_add (c : P1) (r₁ r₂ : k) :
     homothety c (r₁ + r₂) = r₁ • (id k P1 -ᵥ const k P1 c) +ᵥ homothety c r₂ := by
   simp only [homothety_def, add_smul, vadd_vadd]
 
+theorem homothety_eq_iff {c p q : P1} {r₁ r₂ : k} (h : r₁ * r₂ = 1) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean]: I think the name needs to be more specific:
```suggestion
theorem homothety_eq_iff_of_mul_eq_one {c p q : P1} {r₁ r₂ : k} (h : r₁ * r₂ = 1) :
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
